* SKY130 Two-Stage Miller OTA
* PMOS input pair, NMOS active load, NMOS second stage

.lib "sky130_models/sky130_ultra_minimal.lib.spice" tt

.options reltol=0.003 abstol=1e-12 vntol=1e-6

* Supply
Vdd vdd 0 1.8
Vss vss 0 0

* Input stimulus — direct V sources (fast convergence)
Vinp inp 0 DC 0.9 AC 0.5
Vinm inm 0 DC 0.9 AC -0.5

* === FIRST STAGE: PMOS diff pair + NMOS current mirror load ===

* Tail current source (PMOS)
XM5 tail biasp vdd vdd sky130_fd_pr__pfet_01v8 W={W5}u L={L5}u nf=1

* Differential pair (PMOS)
XM1 n1 inp tail vdd sky130_fd_pr__pfet_01v8 W={W1}u L={L1}u nf=1
XM2 n2 inm tail vdd sky130_fd_pr__pfet_01v8 W={W1}u L={L1}u nf=1

* Active load (NMOS current mirror)
XM3 n1 n1 vss vss sky130_fd_pr__nfet_01v8 W={W3}u L={L3}u nf=1
XM4 n2 n1 vss vss sky130_fd_pr__nfet_01v8 W={W3}u L={L3}u nf=1

* === SECOND STAGE: NMOS common-source + PMOS load ===

XM6 out n2 vss vss sky130_fd_pr__nfet_01v8 W={W6}u L={L6}u nf=1
XM7 out biasp vdd vdd sky130_fd_pr__pfet_01v8 W={W7}u L={L7}u nf=1

* === Miller compensation (series Rc for RHP zero cancellation) ===
Cc out n2rc {Cc}p
Rc n2rc n2 {Rc}

* === Bias generation ===
* Current sink: VDD -> XMbp -> biasp -> Ibias -> VSS
Ibias biasp vss {Ibias}
XMbp biasp biasp vdd vdd sky130_fd_pr__pfet_01v8 W={Wbias}u L={Lbias}u nf=1

* === Load ===
CL out 0 5p

* === Measurements ===
.control
* Operating point
op

* Power measurement (scalar from OP)
let pwr = abs(v(vdd) * i(Vdd)) * 1e6
echo "RESULT_POWER_UW" $&pwr

* AC analysis — differential mode
ac dec 50 1 100Meg
wrdata ac_data v(out)

* DC gain
meas ac dc_gain_db find vdb(out) at=10
echo "RESULT_DC_GAIN_DB" $&dc_gain_db

* Save the plot name for later CMRR reference
let saved_dcgain = dc_gain_db
set dcg_val = "$&saved_dcgain"

* GBW (0dB crossing)
meas ac gbw_hz when vdb(out)=0
echo "RESULT_GBW_HZ" $&gbw_hz

* Phase margin from vp() (backup — Python uses wrdata for proper unwrapped PM)
meas ac phase_at_gbw find vp(out) when vdb(out)=0
let pm_approx = 180 + phase_at_gbw
echo "RESULT_PHASE_MARGIN_DEG" $&pm_approx

* === CMRR: measure common-mode gain ===
alter Vinp ac = 1
alter Vinm ac = 1
ac dec 50 1 100Meg
meas ac cm_gain_db find vdb(out) at=10
let cmrr = $dcg_val - cm_gain_db
echo "RESULT_CMRR_DB" $&cmrr

* Restore differential excitation
alter Vinp ac = 0.5
alter Vinm ac = -0.5

* === Output swing: DC sweep with very coarse step ===
dc Vinp 0.4 1.4 0.1
meas dc vout_max max v(out)
meas dc vout_min min v(out)
let swing = vout_max - vout_min
echo "RESULT_OUTPUT_SWING_V" $&swing

echo "RESULT_DONE"
.endc

.end
